US07858640B2
[3-(2,4-dichlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid
A solution of [3-(2,4-dichlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.071 g), methanol (10 mL), and 5.0 M aqueous sodium hydroxide solution (0.15 mL) was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the pH of the residue adjusted to 4 by the addition of glacial acetic acid. The mixture was diluted in ethyl acetate, washed with water and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and methanol (1:0 to 1:1 by volume) to afford title compound as a white solid, 0.040 g.

reactant | [3-(2,4-dichlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.071 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=C(C=C(C=C1)Cl)Cl)C)=O | C21H16Cl2F3NO4
reactant | sodium hydroxide | 5.0 M, 0.15 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | [3-(2,4-dichlorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid | ClC1=C(CC=2C(=NC3=C(C=CC(=C3C2C)OCC(=O)O)F)OC(F)F)C=CC(=C1)Cl | C20H14Cl2F3NO4
